US05409943
(a) N-[3-(4-Methoxybenzyloxy)pyrid-2-yl]-N'-phenylthiourea
A mixture of 2-amino-3-(4-methoxybenzyloxy)pyridine (1.91 g, 0.0083 mol), phenyl isothiocyanate (1.4 g, 0.01 mol) and toluene (10 ml) was refluxed for 3.5 hours, then cooled and treated with diethyl ether to induce crystallisation of the product. Yield 2.18 g (72%), m.p. 123°-125 ° C.

reactant | 2-amino-3-(4-methoxybenzyloxy)pyridine | 0.0083 mol, 1.91 g | NC1=NC=CC=C1OCC1=CC=C(C=C1)OC | C13H14N2O2
reactant | phenyl isothiocyanate | 0.01 mol, 1.4 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-[3-(4-Methoxybenzyloxy)pyrid-2-yl]-N'-phenylthiourea | COC1=CC=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=CC=C2)C=C1 | C20H19N3O2S
